US07829707B2
(a) Ethyl 3-[(1H-imidazol-2-ylmethyl)amino]-1H-pyrrole-2-carboxylate
A reaction mixture with 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester (0.2 g, 1.30 mmol), 2-imidazolecarboxaldehyde (0.15 g, 1.53 mmol), NaCNBH3 (0.082 g, 1.30 mmol) and OHAc (0.15 mL, 2.60 mmol) in methanol (5 mL) was stirred at r.t. for 2 h. The solvent was evaporated in vacuo and the residue was dissolved in ethyl acetate. Washed with water and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were dried (MgSO4), filtered and concentrated. The crude product was purified by flash column chromatography (CH2Cl2/methanol gradient; 0 to 20% methanol), obtaining 0.30 g (99%) of the title compound.

reactant | 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester | 1.30 mmol, 0.2 g | C(C)OC(=O)C=1NC=CC1N | C7H10N2O2
reactant | 2-imidazolecarboxaldehyde | 1.53 mmol, 0.15 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | NaCNBH3 | 1.30 mmol, 0.082 g | [BH3-]C#N.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | Ethyl 3-[(1H-imidazol-2-ylmethyl)amino]-1H-pyrrole-2-carboxylate | 0.30 g, 99% | N1C(=NC=C1)CNC1=C(NC=C1)C(=O)OCC | C11H14N4O2
